US04071625
A solution of 17β,19-dihydroxy-1α-methyl-4-androsten3-one dipropionate, triethylorthoformate, p-toluenesulfonic acid and ethanol in tetrahydrofuran is stirred at room temperature for about 2 hours. The reaction mixture is poured onto ice water containing a few drops of pyridine and stirred well. The solid which forms is filtered and crystallized from ethanol to yield pure 3-ethoxy-1α-methyl-3,5-androstadiene-17β,19-diol dipropionate.

reactant | 17β,19-dihydroxy-1α-methyl-4-androsten3-one dipropionate | C(CC)(=O)O.C(CC)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-ethoxy-1α-methyl-3,5-androstadiene-17β,19-diol dipropionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(C[C@@H]([C@]3(COC(CC)=O)[C@H]1CC2)C)OCC | C28H42O5
